US04900841
1-[4-[(Methylsulfonyl)amino]benzoyl]aziridine
To a solution of 0.343 g (3.16 mmol) of ethyl chloroformate in 0.6 mL of acetone cooled to -10° C. under a nitrogen atmosphere add dropwise a solution of 1.0 g (3.16 mmol) of 4-[(methylsulfonyl)amino]benzoic acid triethylamine salt in 25 mL of acetone. Stir the mixture at -10° C. for 2 h then add slowly a solution of 0.136 g (3.16 mmol) of aziridine in 10 mL of acetone. Stir the reaction mixture for 30 min at ambient temperature after the addition is completed then remove the solvent in vacuo. Flash chromatograph the residue on silica gel with diethyl ether: methylene chloride (2:1), evaporate the solvent from the product containing fractions to obtain the title compound.

reactant | ethyl chloroformate | 3.16 mmol, 0.343 g | ClC(=O)OCC | C3H5ClO2
reactant | 4-[(methylsulfonyl)amino]benzoic acid triethylamine salt | 3.16 mmol, 1.0 g | C(C)N(CC)CC.CS(=O)(=O)NC1=CC=C(C(=O)O)C=C1
reactant | aziridine | 3.16 mmol, 0.136 g | N1CC1 | C2H5N
solvent | acetone | 0.6 mL | CC(=O)C | C3H6O
solvent | acetone | 25 mL | CC(=O)C | C3H6O
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | 1-[4-[(Methylsulfonyl)amino]benzoyl]aziridine | CS(=O)(=O)NC1=CC=C(C(=O)N2CC2)C=C1 | C10H12N2O3S
